Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ataxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with HTN and
pre-diabetes who presents with 3 weeks of inability to walk and
dizziness. 

About three weeks ago, she gradually developed dizziness. Denies
room spinning sensation, but feels like she is unable to 
maintain
her bearings. It is better with staying still but does not
completely go away, much worse with any sort of movement but
especially worse with standing up. Not a lightheaded sensation
either, pt reports that it is difficult to describe. She has 
been
unable to walk, really needs to furniture surf to get to
anything. Seems to be listing to the right and always falling to
the right when she is standing still. Able to wash dishes only 
if
she does not move her head and lean against the sink. She has
been dropping things more readily as well. Able to get to the
target of what she wants (does not miss often), but she 
sometimes
drops them afterwards. Unable to say when exactly this started.
Better with marijuana in that it made her not care about the
dizziness, but as soon as it wore off, the dizziness would come
back. No hearing difficulties, no tinnitus. 

Initially thought she was dehydrated so she has been drinking a
lot of gatorade. Always going to the bathroom-incontinent for 
the
last 3 months or so. Able to feel like she needs to go but then
it is too late and she would have already wet herself. Not an
issue of not being able to get to the bathroom on time, just 
does
not seem to have control of her bladder. Does have neck pain in
the back of her neck that just started. Also dropping things
more. 

About a week ago, she developed a constant headache that is
bifrontal and throbbing. Not associated with photophobia or
phonophobia, endorses nausea but no vomiting. Worse with stress
and not eating. Nothing seems to make it better. Endorses vision
changes-usually, she is able to read the captions on TV but now
is unable to because it is too blurry. 

She went to see her PCP today and was unable to walk. BP was 
also
elevated so she came to the ED by ambulance. 

She endorses some trouble swallowing liquids and solids, 
coughing
after thin liquids. Started recently, worse at night. Also has
diplopia on sustained upgaze. Does not get more tired or weak at
the end of the day, still able to climb stairs from a strength
perspective but needs to hold on to the railing because of her
balance. Her eyes have also been droopier, but she thinks this 
is
because of the headache. 

No recent illnesses. 

 
Past Medical History:
goiter, hypothyroidism, chrondromalacia, depression,
anxiety, vitamin D deficiency, HTN
 
Social History:
___
Family History:
father with lung cancer, mother with CAD, DM,
HTN, paternal grandmother DM; no fmaily history of stroke
 
Physical Exam:
Admission Physical Exam:
PHYSICAL EXAMINATION
Vitals:  T: 98.1F  HR: 48  BP: 186/85  RR: 18  SaO2: 98% RA
General: NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple, +proptosis,
bilateral ears full of ear wax so unable to visualize tympanic
membrane, no vesicles seen
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, speech is fluent with 
full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias. No dysarthria. Normal prosody. 
No
evidence of hemineglect. No left-right confusion.  Able to 
follow
both midline and appendicular commands.

- Cranial Nerves: PERRL 4->2 brisk. VF full to number counting, 
R
vision is blurrier than L vision. EOMI, no nystagmus on primary
gaze. ?skew when right eye covered and uncovered. HIT negative.
On sustained upgaze, she developed vertical diplopia, left eye
elevated more than right eye. +ptosis bilaterally. V1-V3 without
deficits to light touch bilaterally. L NLFF and activates slower
than right. Hearing intact to finger rub bilaterally. Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     4+   5     5     4+    5    5 
 R   5     5     5     5     4+   5-    5     5     5    5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  3+    3+     3+      0       0
     R  3+    3+     3+      0       0  

Plantar response extensor on right and flexor on left

- Sensory: decreased sensation to light touch, pin, and
temperature on the right arm and leg circumferentially. 
Decreased
sensation to proprioception in bilateral toes but right seems
more affected than left. No exinction to DSS.

- Coordination: No dysmetria with finger to nose testing
bilaterally or HKS. +cerebellar rebound in LUE. Mild overshoot 
in
LUE on mirror testing. Unable to tap each finger to her thumb on
her right hand as quickly as her left hand (she is right 
handed).
No truncal ataxia. When she stands, she immediately falls
backwards to the right. 

- Gait: When trying to stand, she immediately falls backwards 
and
to the right. Unable to stay upright without assistance. Cannot
walk due to this unsteadiness

Discharge Physical Exam:
Vitals:  Tmax: 98.5
BP: 131-155/71-84
HR: 45-54
RR: ___
SPO2: 95-97%

General: NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple, slight
proptosis
___: good peripheral perfusion 
Pulmonary: equal chest rise, no apparent respiratory distress 
Abdomen: Soft, nondistended
Extremities: Warm, well perfused

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, speech is fluent with 
full
sentences, intact repetition, and intact verbal comprehension.
Naming intact.  No paraphasias. No dysarthria. Normal prosody. 
- Cranial Nerves: PERRL 4->2 brisk bilaterally. Difficulty
keeping eyes open on upgaze, no skew, EOMI. Difficulty keeping
eyes open with sustained upgaze but with repeated attempts was
able to perform successfully. No diplopia on upgaze, but did
report some blurriness. V1-V3 without deficits to light touch
bilaterally. L NLFF and activates slower than right. Hearing
intact to finger rub bilaterally. Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

   [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5   5-    5     5     5    5 
 R   5     5     5     5     5   5-    5     5     5    5
  
- Reflexes: 
Not tested today

- Sensory: Vision intact to light touch bilaterally

- Coordination: No dysmetria with finger to nose testing
bilaterally 

- Gait: Deferred
 
Pertinent Results:
___ 06:40AM BLOOD WBC-5.9 RBC-3.96 Hgb-12.3 Hct-37.8 MCV-96 
MCH-31.1 MCHC-32.5 RDW-13.4 RDWSD-47.0* Plt ___
___ 06:40AM BLOOD Plt ___
___ 09:34PM BLOOD ___ PTT-28.9 ___
___ 06:40AM BLOOD Glucose-116* UreaN-16 Creat-1.2* Na-144 
K-4.3 Cl-104 HCO3-23 AnGap-17*
___ 07:24PM BLOOD ALT-10 AST-19 AlkPhos-64 TotBili-0.3
___ 07:24PM BLOOD cTropnT-<0.01
___ 06:40AM BLOOD Calcium-8.7 Phos-3.5 Mg-2.1
___ 10:08PM BLOOD %HbA1c-5.5 eAG-111
___ 09:34PM BLOOD Triglyc-168* HDL-47 CHOL/HD-4.8 
LDLcalc-144*

MRA Head and Neck
FINDINGS: 
 
MRI Brain:
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift
or infarction.  There is a T2/FLAIR hyperintensity in the left 
parietal lobe
(image 13, series 14) which is of uncertain clinical 
significance and may
represent chronic microangiopathic change.  The ventricles and 
sulci are
normal in caliber and configuration.  The major intracranial 
flow voids are
preserved.  There is mild mucosal thickening of the ethmoid air 
cells.  The
orbits are unremarkable.  No significant fluid signal is seen in 
the mastoid
air cells.
 
MRA brain: The intracranial vertebral and internal carotid 
arteries and their
major branches appear normal without evidence of stenosis, 
occlusion, or
aneurysm formation.
 
MRA neck:  The common, internal and external carotid arteries 
appear normal. 
There is no evidence of internal carotid artery stenosis by 
NASCET criteria. 
The origins of the great vessels, subclavian and vertebral 
arteries appear
normal bilaterally.
 
IMPRESSION:
 
 
1. No acute intracranial abnormality.  Specifically no acute 
infarct or
intracranial hemorrhage.
2. Nonspecific T2/FLAIR hyperintensity in the left parietal lobe 
is of
uncertain clinical significance and may represent chronic 
microangiopathic
change.
3. Unremarkable MRA of the head and neck.
 
MRI C spine
FINDINGS: 
 
Cervical alignment is anatomic.  Vertebral body heights are 
preserved.  There
is no focal suspicious marrow lesion.  Degenerative loss of disc 
height and
signal at C4-C5 through C7-T1 is minimal.  The visualized 
posterior fossa is
unremarkable.  There is no cord signal abnormality.  The 
craniocervical
junction and anterior atlantodental interval are within expected 
limits.
 
C2-C3: A central protrusion results in mild spinal canal 
narrowing, contacting
and minimally remodeling the ventral aspect of the cord.  There 
is no
underlying cord signal change.  There is no neural foraminal 
narrowing.
 
C3-C4: A small central protrusion results in mild spinal canal 
narrowing,
contacting the ventral aspect of the cord with minimal 
remodeling. 
Uncovertebral and facet arthropathy results in mild left and no 
significant
right neural foraminal narrowing.
 
C4-C5: A small central protrusion does not significantly narrow 
the spinal
canal or neural foramina.  Uncovertebral and facet arthropathy 
results in
moderate left and no significant right neural foraminal 
narrowing.
 
C5-C6: A central protrusion results in mild spinal canal 
narrowing, contacting
and minimally remodeling the ventral aspect of the cord.  There 
is no
underlying cord signal change.  Uncovertebral and facet 
arthropathy results in
mild to moderate right and mild left neural foraminal narrowing.
 
C6-C7: A central protrusion results in mild spinal canal 
narrowing. 
Uncovertebral facet arthropathy results in mild 
left-greater-than-right neural
foraminal narrowing.
 
C7-T1: No significant spinal canal or neural foraminal 
narrowing.
On sagittal sequences, facet arthropathy of the right T2 T3 and 
T3-T4 facets
results in mild neural foraminal narrowing, which appears to 
contact the
undersurface of the exiting T2 nerve root (series 3, image 4).
 
Prevertebral and paraspinal soft tissues are unremarkable.
 
IMPRESSION:
 
 
1. Multilevel cervical spondylosis as described above, most 
prominent C5-C6
and C6-C7 where there is mild spinal canal narrow secondary 
central
protrusions which contact and remodeling ventral aspect of the 
cord without
underlying cord signal change.  In addition, there is moderate 
C4-C5 left and
mild-to-moderate right C5-C6 neural foraminal narrowing.
2. There is no high-grade spinal canal or neural foraminal 
narrowing.  No cord
signal abnormalities identified.
3. Additional findings as described above.
 
CTH 

FINDINGS: 
 
There is no evidence of acute major vascular territorial
infarction,hemorrhage,edema, or mass.  There is prominence of 
the ventricles
and sulci suggestive of involutional changes.
 
There is no evidence of fracture.  The visualized portion of the 
paranasal
sinuses, mastoid air cells, and middle ear cavitiesare 
essentially clear.  The
visualized portion of the orbits are unremarkable.
 
IMPRESSION: 
 
No acute intracranial process identified.
 
Brief Hospital Course:
Ms. ___ is a ___ woman with HTN and pre-diabetes 
who presents with 3 weeks of inability to walk and dizziness. 

About three weeks ago, she gradually developed dizziness. Denies 
room spinning sensation, but feels like she is unable to 
maintain her bearings. It is better with staying still but does 
not completely go away, much worse with any sort of movement but 
especially worse with standing up. Not a lightheaded sensation 
either, pt reports that it is difficult to describe. She has 
been unable to walk, really needs to furniture surf to get to 
anything. Seems to be listing to the right and always falling to 
the right when she is standing still. Able to wash dishes only 
if she does not move her head and lean against the sink. She has 
been dropping things more readily as well. Able to get to the 
target of what she wants (does not miss often), but she 
sometimes drops them afterwards. Unable to say when exactly this 
started. Better with marijuana in that it made her not care 
about the dizziness, but as soon as it wore off, the dizziness 
would come back. No hearing difficulties, no tinnitus. 

Initially thought she was dehydrated so she has been drinking a 
lot of gatorade. Always going to the bathroom-incontinent for 
the last 3 months or so. Able to feel like she needs to go but 
then it is too late and she would have already wet herself. Not 
an issue of not being able to get to the bathroom on time, just 
does not seem to have control of her bladder. Does have neck 
pain in the back of her neck that just started. Also dropping 
things more. 

About a week ago, she developed a constant headache that is 
bifrontal and throbbing. Not associated with photophobia or 
phonophobia, endorses nausea but no vomiting. Worse with stress 
and not eating. Nothing seems to make it better. Endorses vision 
changes-usually, she is able to read the captions on TV but now 
is unable to because it is too blurry. She went to see her PCP 
and was unable to walk. BP was also elevated so she came to the 
ED by ambulance. 

She endorses some trouble swallowing liquids and solids, 
coughing after thin liquids. Started recently, worse at night. 
Also has diplopia on sustained upgaze. Does not get more tired 
or weak at the end of the day, still able to climb stairs from a 
strength perspective but needs to hold on to the railing because 
of her balance. Her eyes have also been droopier, but she thinks 
this is because of the headache. No recent illnesses.

Her blood pressure was elevated to SBP 160s-180s on admission. 
Orthostatic vital signs were borderline with a significant drop 
in SBP of >20, which is likely because she hasn't been eating 
much lately because she hasn't been hungry. Her BP was 
subsequently controlled on her home HCTZ. She was given IV 
fluids, worked with ___, was seen by social work, and her 
symptoms improved. We obtained imaging of her brain, including a 
CT which was normal, and an MRI/MRA of the brain, and an MRI of 
the cervical spine. MRI showed no acute infarct or hemorrhage; 
only abnormality was nonspecific T2/FLAIR hyperintensity in the 
left parietal lobe, likely chronic microangiopathic change. MRI 
c spine showed cervical spondylosis. Given additional history 
obtained regarding patient's psychiatric history including her 
current medical leave for anxiety and depression since ___, along with decreased oral intake it is likely her current 
neurologic symptoms are
multifactorial in etiology, and can be attributed to recent 
stressors, underlying psychiatric disease, medication use, and 
decreased PO intake. She was deemed stable to be discharged 
home, with continuation of aspirin 81mg, blood pressure 
medications, and physical therapy. She was counseled on the 
importance of staying hydrated. 

#TRANSITIONAL ISSUES:
- Blood pressure: Elevated BP on admission, recommend follow up 
for optimal outpatient BP control. Orthostatic Vitals during 
admission, for which given IVF. 
- Anxiety/Depression: Patient reports worsening of symptoms 
since dizziness began, and has been using lorazepam almost 
daily, which may contribute to dizziness. Recommend follow up 
for optimization of anxiety/depression med.
- Ambulation: Patient unsteady and required assistance to 
ambulate and multiple ___ visits. ___ recommended home ___ and a 
rolling walker. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Propranolol LA 120 mg PO DAILY 
3. LORazepam 0.5 mg PO DAILY:PRN anxiety 
4. BuPROPion XL (Once Daily) 300 mg PO DAILY 
5. TraZODone 50 mg PO QHS:PRN insomnia 
6. peg 3350-electrolytes-vit C 100-7.5-2.691 gram oral DAILY:PRN 

7. Levothyroxine Sodium 112 mcg PO DAILY 
8. Hydrocortisone Enema 25 mg PR QHS:PRN hemorrhoids 
9. Hydrocortisone Cream 2.5% 1 Appl TP PRN hemorrhoids 
10. Citalopram 40 mg PO DAILY 
11. Hydrochlorothiazide 25 mg PO DAILY 
12. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
13. Vitamin D ___ UNIT PO DAILY 
14. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
3.  Citalopram 40 mg PO DAILY  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Hydrocortisone Cream 2.5% 1 Appl TP PRN hemorrhoids  
7.  Hydrocortisone Enema 25 mg PR QHS:PRN hemorrhoids  
8.  Levothyroxine Sodium 112 mcg PO DAILY  
9.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
10.  peg 3350-electrolytes-vit C 100-7.5-2.691 gram oral 
DAILY:PRN  
11.  Propranolol LA 120 mg PO DAILY  
12.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
13.  TraZODone 50 mg PO QHS:PRN insomnia  
14.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Orthostatic Hypotension 
Anxiety
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for dizziness and unsteadiness. 
Imaging of your brain and spine, as well as laboratory tests, 
showed no signs of a stroke or other explanation for your 
symptoms. Your blood pressure did decrease when standing, which 
suggests that you have not been hydrating or eating enough. We 
gave you some fluids and you worked with ___, for which your 
symptoms improved.

Your blood pressure was elevated to the 180s when you were 
admitted. Please follow up with your primary care provider about 
blood pressure control after you leave the hospital. 

You also explained that your anxiety and depression have been 
worse lately. This may explain some of your symptoms. We 
recommend that you follow up with your psychiatrist. You 
mentioned that you have been taking your lorazepam more 
frequently since your symptoms began, and this can cause some 
dizziness. You should follow up with your psychiatrist about 
your medications for anxiety.

It was a pleasure taking care of you,
Your ___ Neurology team

 
Followup Instructions:
___